Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:5]([H:6])([H:7])[H:8].[O:1][O:2][C:3]#[C:4]>>[O:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],-5.529554458080001
[H:12].[O:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[O:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.60267735923
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10].[O:11][H:12],2.73774403515
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:13]([H:14])([H:15])[H:16],2.0132634671000003
[C:5][C:6]([H:7])([H:8])[H:9].[O:1][O:2][C:3]([H:4])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C@@:3]([H:4])([C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.66045549023
[C:3]#[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-7.9300625930600015
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]#[C:6]>>[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.763768432819999
[H:12].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.97584487977
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[H:10],-2.1336223956
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:9],1.95476280181
[C:1]=[C:2]([C:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[C:1].[C:2](#[C:3][O:4][H:5])[C:6]([H:7])([H:8])[H:9],3.07802233724
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[O:5][O:6]>>[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-3.50834467481
[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])=[C:5][H:6],4.74508771443
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.30729344508
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:10].[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[O:11][C:12]([H:13])([H:14])[H:15],1.99336976685
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([O:10][H:11])[O:12][H:13]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3][C:8]([H:9])([O:10][H:11])[O:12][H:13],1.65665362768
[C:1]#[C:2][C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2].[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10],6.29057131544
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],3.26496207764
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11](=[O:12])[H:13].[O:1]=[C:2]([H:3])[H:4],0.7917229139309999
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.56799247145
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],2.17662159887
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2].[C:3]([H:4])([H:5])=[C:6][O:7][C:8]([H:9])([H:10])[H:11],3.7083291897199993
[H:1][C:2]/[C:3]([H:4])=[C:5](/[O:6][H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5](=[O:6])[O:8][C:9]([H:10])([H:11])[H:12].[H:7],1.53980188726
[H:1][O:2]/[C:3](=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.92153885215
[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][C:4]([H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.55120134871
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],4.08226074863
[C:5]=[C:6]([H:7])[H:8].[H:1][O:2][C:3](=[C:4])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-6.423269441
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:12]([H:13])[H:14],1.10031440544
[C:1][C:2]#[C:3][O:4]>>[C:1].[C:2][C:3][O:4],7.95488196418
